US05236952
2.5 g of 5-(3,4-dimethoxy-5-nitrophenyl)-3-methyl-1,2,4-oxadiazole are dissolved in 70 ml of methylene chloride. After cooling to -60° there is added dropwise thereto within 20 minutes while stirring a solution of 23.62 g of boron tribromide in 50 ml of methylene chloride, whereupon the mixture is held at the reflux temperature for 48 hours. After cooling to -60°, the mixture is treated with 60 ml of ethanol and subsequently stirred at room temperature for 30 minutes. The yellow solution is evaporated to dryness, whereupon the residue is treated three times with 100 ml of toluene/ethanol (1:1) each time and the solvent is distilled each time. After crystallization from ethanol, there is obtained 5-(3-methyl-1,2,4-oxadiazol-5-yl)-3-nitropyrocatechol in the form of yellow crystals of m.p. 201°-202°.

reactant | 5-(3,4-dimethoxy-5-nitrophenyl)-3-methyl-1,2,4-oxadiazole | 2.5 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=NC(=NO1)C | C11H11N3O5
reactant | boron tribromide | 23.62 g | B(Br)(Br)Br | BBr3
reactant | ethanol | 60 ml | C(C)O | C2H6O
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-(3-methyl-1,2,4-oxadiazol-5-yl)-3-nitropyrocatechol | CC1=NOC(=N1)C1=CC(=C(C(O)=C1)O)[N+](=O)[O-] | C9H7N3O5
